US08134001B2
In a manner similar to the method described in Example 50a, 2-fluoro-5-iodobenzaldehyde (2 g, 8 mmol) (Aldrich) was reacted with 4-cyanophenol (1.43 g, 12 mmol) and K2CO3 in N,N-dimethylacetamide to give 4-(2-formyl-4-iodo-phenoxy)-benzonitrile as a light yellow solid (Yield 1.9 g, 70.4%).

reactant | 2-fluoro-5-iodobenzaldehyde | 8 mmol, 2 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | 4-cyanophenol | 12 mmol, 1.43 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-(2-formyl-4-iodo-phenoxy)-benzonitrile | Yield 1.9 g, 70.4% | C(=O)C1=C(OC2=CC=C(C#N)C=C2)C=CC(=C1)I | C14H8INO2
